US08859732B2
The obtained wet crystals of Leu-Leu-OBzl (2-MeO-4-OC12OC22) were dissolved in chloroform (13 mL), Fmoc-D-Lys(Boc)-OH (481 mg, 1.03 mmol) and HOBt (13.9 mg, 103 μmol) were added at room temperature, and EDC HCl (216 mg, 1.13 mmol) was further added under ice-cooling. The mixture was warmed to room temperature, stirred overnight and concentrated under reduced pressure. The residue was precipitated with methanol (10 mL) to give Fmoc-D-Lys(Boc)-Leu-Leu-OBzl (2-MeO-4-OC12OC22) (1.14 g, 86% yield relative to Bzl (2-MeO-4-OC12OC22)OH).

reactant | Leu-Leu-OBzl | N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C19H30N2O3
reactant | Fmoc-D-Lys(Boc)-OH | 1.03 mmol, 481 mg | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H32N2O6
reactant | EDC HCl | 1.13 mmol, 216 mg | CCN=C=NCCCN(C)C.Cl
solvent | chloroform | 13 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | HOBt | 103 μmol, 13.9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | Fmoc-D-Lys(Boc)-Leu-Leu-OBzl | 1.14 g, 86% yield | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C45H60N4O8
